US08242111B2
6((S)-3-((R)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-2-oxo-1,3-oxazinan-3-yl)piperidin-1-yl)nicotinonitrile
The title compound was prepared from (R)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-3-((S)-piperidin-3-yl)-1,3-oxazinan-2-one and 2-bromo-5-cyanopyridine following a procedure analogous to that described in Example 16. LC-MS Method 2 tR=1.218 min, m/z=439.1; 1H NMR (CDCl3) 1.21-1.36 (m, 1H), 1.62 (m, 1H), 1.78 (m, 3H), 1.56 (m, 2H), 1.86-2.00 (m, 2H), 2.19 (m, 1H), 2.29 (m, 1H), 2.67-2.86 (m, 3), 3.20 (m, 1H), 3.50 (t, 2H), 3.79 (m, 1H), 4.12 (m, 1H), 4.30 (d, 1H), 6.53 (m, 1H), 7.01 (t, 2H), 7.24 (m, 2H), 7.51 (d, 1H), 8.30 (s, 1H).

reactant | (R)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-3-((S)-piperidin-3-yl)-1,3-oxazinan-2-one | FC1=CC=C(C=C1)[C@]1(CCN(C(O1)=O)[C@@H]1CNCCC1)CCCO | C18H25FN2O3
reactant | 2-bromo-5-cyanopyridine | BrC1=NC=C(C=C1)C#N | C6H3BrN2
product | 6((S)-3-((R)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-2-oxo-1,3-oxazinan-3-yl)piperidin-1-yl)nicotinonitrile | FC1=CC=C(C=C1)[C@]1(CCN(C(O1)=O)[C@@H]1CN(CCC1)C1=NC=C(C#N)C=C1)CCCO | C24H27FN4O3
